US05691333
To a stirred solution of 1.00 gram (0.0024 mole) of 5-amino-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-4-methylsulfinyl-1H-pyrazole-3-carbothioamide, (Compound 4, prepared as described in applicants' copending U.S. patent application Ser. No. 08/418,680, entitled "PESTICIDAL 1-ARYLPYRAZOLE-3-THIOCARBOXAMIDES", filed concurrently herewith, incorporated by reference herein in its entirety and relied upon) and a few crystals of 18-crown-6 in 30 milliliters of dry tetrahydrofuran, was added 0.27 gram (0.00244 mole) of potassium tertiary-butoxide, and the mixture was strirred for a few minutes. A 0.16 milliliter (0.00264 mole) portion of methyl iodide was then injected into the reaction mixture, followed by stirring for a two-hour period. An additional 0.08 milliliter (0.0013 mole) portion of methyl iodide and 0.09 gram of potassium tertiary-butoxide were added and stirring was continued for a period of 17 minutes. The mixture was neutralized by passing in gaseous CO2 for about 10 minutes and volatiles were then removed under reduced pressure. The residue was taken up in dichloromethane and filtered, and the filtrate was evaporated to give the product as a crude residue. This was chromatographed on silica, eluting with 2:1 ethyl acetate/hexane, followed by a second chromatography employing 4:1 chloroform/acetone as the solvent, resulting in 0.67 gram (0.00155 mole) of 5-amino-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-4-methylsulfinyl-1H-pyrazole-3-carboximidothioic acid methyl ester (99.2% purity) having a melting point of 206.5° C. This compound is referred to hereinafter as Compound 2.

reactant | 5-amino-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-4-methylsulfinyl-1H-pyrazole-3-carbothioamide | 0.0024 mole, 1.00 gram | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C(N)=S)S(=O)C | C12H9Cl2F3N4OS2
reactant | 18-crown-6 | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | potassium tertiary-butoxide | 0.00244 mole, 0.27 gram | CC(C)([O-])C.[K+]
reactant | methyl iodide | CI | CH3I
reactant | potassium tertiary-butoxide | 0.09 gram | CC(C)([O-])C.[K+]
solvent | tetrahydrofuran | 30 milliliters | O1CCCC1 | C4H8O
solvent | CO2 | C(=O)=O | CO2
product | 5-amino-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-4-methylsulfinyl-1H-pyrazole-3-carboximidothioic acid methyl ester | 0.00155 mole, 0.67 gram, 99.2% | CSC(=N)C1=NN(C(=C1S(=O)C)N)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C13H11Cl2F3N4OS2
